US04436662
8-Chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetic acid methyl ester
In one portion, 2.0 g (5.8 mmol) of 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine were added to an ice-cooled solution of 0.8 g (7.1 mmol) of potassium t-butoxide in 30 ml of dry dimethylformamide. After stirring at 0° C. for 15 minutes, 0.65 ml (7.7 mmol) of methyl bromoacetate was added, and the resulting solution was stirred for 5 minutes. The mixture was diluted with water and extracted with ether. The ether solution was washed with water, dried over anhydrous sodium sulfate, and concentrated at reduced pressure to an oily residue. Purification of the residue by column chromatography (silica gel, 40 g; eluent, 5% ether in methylene chloride) gave after crystallization from a mixture of ether and petroleum ether 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetic acid methyl ester as off-white prisms, mp 174°-176° C.

reactant | 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | 5.8 mmol, 2.0 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CNC3C)C=C1 | C19H14Cl2N2
reactant | potassium t-butoxide | 7.1 mmol, 0.8 g | CC(C)([O-])C.[K+]
reactant | methyl bromoacetate | 7.7 mmol, 0.65 ml | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-Chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetic acid methyl ester | COC(CN1C=C2CN=C(C3=C(C2=C1C)C=CC(=C3)Cl)C3=C(C=CC=C3)Cl)=O | C22H18Cl2N2O2
